US07829588B2
Synthesis of 2-(4-{4-[5-(4-tert-Butylphenyl)-4-methyl-4H-[1,2,4]-triazol-3-ylsulfanyl]-2-heptyloxybenzyl amino}phenylacetamide
152 mg (1.12 mmol, 1.5 eq) of benzotriazol-1-ol, 497 mg (1.12 mmol, 1.5 eq) of benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate, 780 μl (4.50 mmol, 4 eq) of diisopropylethylamine and finally 80 mg (1.50 mmol, 2 eq) of ammonium chloride are added to a solution of 450 mg (0.75 mmol, 1 eq) of (4-{4-[5-(4-tert-butylphenyl)-4-methyl-4H-[1,2,4]-triazol-3-ylsulfanyl]-2-heptyloxybenzyl amino}phenyl)acetic acid in 6 ml of dimethylformamide. The reaction mixture is stirred at room temperature for 24 hours, and then supplemented with a small amount of water. The precipitate obtained is filtered, dried and chromatographed on a silica gel cartridge (heptane/ethyl acetate 30/70). 298 mg (66%) of the expected compound are obtained.

reactant | benzotriazol-1-ol | 1.12 mmol, 152 mg, 1.5 eq | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 1.12 mmol, 497 mg, 1.5 eq | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | diisopropylethylamine | 4.50 mmol, 780 μl, 4 eq | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ammonium chloride | 1.50 mmol, 80 mg, 2 eq | [Cl-].[NH4+]
reactant | (4-{4-[5-(4-tert-butylphenyl)-4-methyl-4H-[1,2,4]-triazol-3-ylsulfanyl]-2-heptyloxybenzyl amino}phenyl)acetic acid | 0.75 mmol, 450 mg, 1 eq | C(C)(C)(C)C1=CC=C(C=C1)C=1N(C(=NN1)SC1=CC(=C(CNC2=CC=C(C=C2)CC(=O)O)C=C1)OCCCCCCC)C | C35H44N4O3S
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-{4-[5-(4-tert-Butylphenyl)-4-methyl-4H-[1,2,4]-triazol-3-ylsulfanyl]-2-heptyloxybenzyl amino}phenylacetamide | 298 mg, 66% | C(C)(C)(C)C1=CC=C(C=C1)C=1N(C(=NN1)SC1=CC(=C(CNC2=CC=C(C=C2)CC(=O)N)C=C1)OCCCCCCC)C | C35H45N5O2S
